US08685969B2
2. Benzyl 2-fluoro-3-formylphenylcarbamate
To a slightly tan, homogeneous solution of benzyl 3-cyano-2-fluorophenylcarbamate (4.45 g, 16.47 mmol) in THF (211 mL) in a −78° C. bath under nitrogen was syringed DIBAL-H (65.9 mL, 65.9 mmol)/CH2Cl2 dropwise over 75 min. The reaction was stirred for 30 min. The cold bath was removed, and the reaction was stirred to room temperature. After 4 hr, the solution was added to ice-cold water (300 mL) over 50 minutes; heavy emulsion ensued. After stirring for another 30 min, the organic layer was separated, and the aqueous layer/emulsion was filtered, and the insoluble materials were rinsed with CH2Cl2 (200 mL). The organic layers were combined and concentrated in vacuo. The residue was dissolved in CH2Cl2 (300 mL) and washed with brine (75 mL), dried over MgSO4, and concentrated in vacuo to give the desired product (4.0253 g, 11.78 mmol, 71.6% yield) as a tan solid.

reactant | benzyl 3-cyano-2-fluorophenylcarbamate | 16.47 mmol, 4.45 g | C(#N)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)F | C15H11FN2O2
reactant | DIBAL-H | 65.9 mmol, 65.9 mL | CC(C)C[AlH]CC(C)C
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | THF | 211 mL | C1CCOC1 | C4H8O
product | Benzyl 2-fluoro-3-formylphenylcarbamate | 11.78 mmol, 4.0253 g, 71.6% yield | FC1=C(C=CC=C1C=O)NC(OCC1=CC=CC=C1)=O | C15H12FNO3
